US08309721B2
108 mg of (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate (BOP), 33 mg of hydroxybenzotriazole (HOBT), 17 mg of ammonium chloride and 0.1 ml of diisopropylethylamine are successively added to a solution of 80 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(3-hydroxy-3-methylbutyl)amino]benzoic acid in 10 ml of N,N-dimethylformamide. The reaction mixture is stirred at ambient temperature for 12 hours and then diluted with distilled water and extracted with ethyl acetate. The organic phase is subsequently washed with distilled water and a saturated solution of sodium chloride, dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of dichloromethane and methanol (96/4 by volume), so as to give 18 mg of 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(3-hydroxy-3-methylbutyl)amino]benzamide in the form of a white solid, the characteristics of which are the following:

reactant | (1H-benzotriazol-1-yloxy)[tris(dimethylamino)]phosphonium hexafluorophosphate | 108 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | hydroxybenzotriazole | 33 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | ammonium chloride | 17 mg | [Cl-].[NH4+]
reactant | diisopropylethylamine | 0.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(3-hydroxy-3-methylbutyl)amino]benzoic acid | 80 mg | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)O)C=C1)NCCC(C)(C)O | C30H26N4O3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[4-(6-cyanopyridin-3-yl)-9H-carbazol-9-yl]-2-[(3-hydroxy-3-methylbutyl)amino]benzamide | 18 mg | C(#N)C1=CC=C(C=N1)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)N)C=C1)NCCC(C)(C)O | C30H27N5O2
